US04282166
Vit et al. in Eastman Organic Chemical Bulletin, 1974, vol. 46, No. 1, page 5 discloses a dehalogenation of tributyltin chloride with VITRIDE reducing agent (sodium bis (2-methoxyethoxy) aluminum hydride) in boiling diethyl ether. After a workup procedure including water quenching, ether extraction, drying, evaporation and distillation, substantially as shown by Van der Kerk supra, for the use of lithium aluminum hydride, 45.5% yield of tributyltin hydride is obtained. Although by this method tributyltin chloride is successfully reduced to the hydride, the yield is low and it calls for the use of diethyl ether which is notoriously volatile, flammable and explosive. The yield is so low as to render impractical, by this route, many interesting processes which involve the use of the expensive organotin halides.

reactant | tributyltin chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | VITRIDE | COCCO[AlH2-]OCCOC.[Na+]
reactant | sodium bis (2-methoxyethoxy) aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | tributyltin hydride | 45.5% yield | C(CCC)[SnH](CCCC)CCCC | InChI=1S/3C4H9.Sn.H/c3*1-3-4-2;;/h3*1,3-4H2,2H3;;
